US07501422B2
b) (2S,4S)-4-[5-(2,4-Difluoro-phenyl)-tetrazol-2-yl]-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester
To a solution of 4-[5-(2,4-difluoro-phenyl)-tetrazol-2-yl]-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (0.14 g, 0.34 mmol) in MeOH (25 ml) cooled to 0 degree was added LiOH (0.06 g, 1.36 mmol), and the mixture was stirred overnight. After removal of MeOH, the residue was acidified with 2M HCl. The aqueous layer was extracted with EA, the organic solution was dried and concentrated to give title product as yellow oil (0.1 g, 0.25 mmol). MS m/e=396.3 [M+H]+.

reactant | 4-[5-(2,4-difluoro-phenyl)-tetrazol-2-yl]-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 0.34 mmol, 0.14 g | COC(=O)C1N(CC(C1)N1N=C(N=N1)C1=C(C=C(C=C1)F)F)C(=O)OC(C)(C)C | C18H21F2N5O4
reactant | LiOH | 1.36 mmol, 0.06 g | [Li+].[OH-]
solvent | MeOH | 25 ml | CO | CH4O
product | (2S,4S)-4-[5-(2,4-Difluoro-phenyl)-tetrazol-2-yl]-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 0.25 mmol, 0.1 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)N1N=C(N=N1)C1=C(C=C(C=C1)F)F)C(=O)O | C17H19F2N5O4
